US04036872
Chromium trioxide (9.8 g.) (dried over phosphorus pentoxide) was added portionwise with stirring to a solution of 6-(7-hydroxyhepty)-7-(3-oxo-4-propoxybut-1-enyl)-1,4-dioxaspiro[4,4]nonane (8.6 g.) in dry dimethylformamide (130 ml.) at a temperature lower than 0° C. Concentrated sulphuric acid (3.5 ml.) in dimethylformamide (130 ml.) was added and the mixture stirred at below 10° C. for 1 hour. Diethyl ether was added followed by a minimum quantity of water to produce two readily separable layers. The ether layer was separated and stirred with aqueous 2 N sodium carbonate solution. The aqueous layer was separated, washed with diethyl ether and then covered with a layer of diethyl ether and acidified to pH 5 by the addition of 20% aqueous sodium dihydrogen phosphate solution. The ethereal layer was separated and the aqueous layer again extracted with diethyl ether. The combined ethereal layers were dried over sodium sulphate and evaporated to give 7-{7-(3-oxo-4-propoxybut-1-enyl)-1,4-dioxaspiro[ 4,4]-non-6-yl}heptanoic acid (2.1 g.),

reactant | 6-(7-hydroxyhepty)-7-(3-oxo-4-propoxybut-1-enyl)-1,4-dioxaspiro[4,4]nonane | 8.6 g | OCCCCCCCC1C2(OCCO2)CCC1C=CC(COCCC)=O | C21H36O5
reactant | sulphuric acid | 3.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | water | O | H2O
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 130 ml | CN(C=O)C | C3H7NO
catalyst | Chromium trioxide | 9.8 g | [O-2].[O-2].[O-2].[Cr+6]
product | 7-{7-(3-oxo-4-propoxybut-1-enyl)-1,4-dioxaspiro[ 4,4]-non-6-yl}heptanoic acid | 2.1 g | O=C(C=CC1C(C2(OCCO2)CC1)CCCCCCC(=O)O)COCCC | C21H34O6
